US08377949B2
To a mixture of isatoic anhydride (250 mg, 1.53 mmol) and (S)-2-phenylglycine methyl ester hydrochloride (370 mg, 1.84 mmol) in DMF (5.0 mL) is added triethylamine (0.29 mL, 2.07 mmol). The mixture is stirred at room temperature for 16 hours. The reaction mixture is diluted with EtOAc (100 mL) and is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate and concentrated to afford (S)-(2-amino-benzoylamino)-phenyl-acetic acid methyl ester (330 mg, 76%).

reactant | isatoic anhydride | 1.53 mmol, 250 mg | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | (S)-2-phenylglycine methyl ester hydrochloride | 1.84 mmol, 370 mg | Cl.COC([C@@H](N)C1=CC=CC=C1)=O
reactant | triethylamine | 2.07 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-(2-amino-benzoylamino)-phenyl-acetic acid methyl ester | 330 mg, 76% | COC([C@H](C1=CC=CC=C1)NC(C1=C(C=CC=C1)N)=O)=O | C16H16N2O3
